US04572909
Methyl N-(2-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}ethyl)aminoacetate
A solution of methyl bromoacetate (1.53 g) in acetonitrile (20 ml) was added dropwise over 30 minutes to a stirred, refluxing mixture of 2-[(2-aminoethoxy)methyl]-4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine (5.01 g) and potassium carbonate (2.76 g) in acetonitrile (60 ml). The mixture was then heated under reflux for 3 hours, filtered, and evaporated. The residue was partitioned between ethyl acetate and water and the organic layer washed with water, dried (Na2SO4), and evaporated. The residue was chromatographed on silica (t.l.c. grade Merck Kieselgel 60H, [Trade Mark] 40 g) eluting with dichloromethane plus 0-3% methanol. Appropriate fractions were combined and evaporated to give the title compound (2.10 g), m.p. 96°-98°.

reactant | methyl bromoacetate | 1.53 g | BrCC(=O)OC | C3H5BrO2
reactant | 2-[(2-aminoethoxy)methyl]-4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine | 5.01 g | NCCOCC=1NC(=C(C(C1C(=O)OCC)C1=C(C(=CC=C1)Cl)Cl)C(=O)OC)C | C20H24Cl2N2O5
reactant | potassium carbonate | 2.76 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | Methyl N-(2-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}ethyl)aminoacetate | 2.10 g | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCCNCC(=O)OC)C(=O)OCC | C23H28Cl2N2O7
